US05912261
A solution of 5.2 mL of diethyl azodicarboxylate in 30 mL of tetrahydrofuran was added to a solution of 5.13 g of 3-nitro-4-chlorobenzyl alcohol, 4.70 g of ethyl 2,4-dioxoimidazolidine-1-acetate and 8.68 g of triphenylphosphine in 30 mL of tetrahydrofuran at 0° C. The reaction mixture was poured over water and the mixture was extracted with ethyl acetate several times. The extracts were combined, washed with a saturated saline solution, dried over sodium sulfate and concentrated. The concentrate was purified by a silica gel column and recrystallized from a mixed solvent of ethanol and water to give 7.01 g of ethyl 3-(3-nitro-4-chlorobenzyl)-2,4-dioxoimidazolidine-1-acetate.

reactant | diethyl azodicarboxylate | 5.2 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-nitro-4-chlorobenzyl alcohol | 5.13 g | [N+](=O)([O-])C=1C=C(CO)C=CC1Cl | C7H6ClNO3
reactant | ethyl 2,4-dioxoimidazolidine-1-acetate | 4.70 g | O=C1N(CC(N1)=O)CC(=O)OCC | C7H10N2O4
reactant | triphenylphosphine | 8.68 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | ethyl 3-(3-nitro-4-chlorobenzyl)-2,4-dioxoimidazolidine-1-acetate | 7.01 g | [N+](=O)([O-])C=1C=C(CN2C(N(CC2=O)CC(=O)OCC)=O)C=CC1Cl | C14H14ClN3O6
